US07291641B2
332.1) 2,6-diisopropylphenyl acetate
3.45 g (16.4 mmol) of trifluoroacetic anhydride is added to 0.83 ml (14.6 mmol) of acetic acid at 0° C. while leaving the mixture to return to ambient temperature over 2 hours. The mixture is then cooled down to 0° C. and 1.95 g (11.0 mmol) of 2,6-diisopropylphenol is added dropwise. The reaction medium is maintained under stirring for 12 hours before being poured into ice-cooled water. After extraction with dichloromethane, the organic phase is washed with sodium chloride in a saturated aqueous solution before being dried over magnesium sulphate, filtered and concentrated under vacuum. A colourless oil is obtained with a yield of 86%. This product is sufficiently pure to be used directly in the following stage.

reactant | trifluoroacetic anhydride | 16.4 mmol, 3.45 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | acetic acid | 14.6 mmol, 0.83 ml | C(C)(=O)O | C2H4O2
reactant | 2,6-diisopropylphenol | 11.0 mmol, 1.95 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
solvent | water | O | H2O
product | 2,6-diisopropylphenyl acetate | yield of 86% | C(C)(=O)OC1=C(C=CC=C1C(C)C)C(C)C | C14H20O2
